US06743814B2
A solution of 2.7 g of 4-hydroxymethyl-2-(3,4,4-trifluoro-3-butenylthio)oxazole in 50 ml of tetrahydrofuran (dehydrated) was added dropwise to a suspension of 0.5 g NaH (purity about 60%) in 20 ml of tetrahydrofuran (dehydrated) at 0° C. After stirring the mixture at room temperature for 1 hour, a solution of 2.0 g of methyl iodide in 20 ml of tetrahydrofuran (dehydrated) was added at 0° C. and further stirred at room temperature for 1 hour. The reaction mixture was poured into a mixed solution of 200 g ice and 2N hydrochloric acid. After extraction with 100 ml of dichloromethane, the solution was washed with water and dried with anhydrous magnesium sulfate. After the solvent was distilled off under reduced pressure, the residue was purified by column chromatography (eluent: dichloromethane) to obtain 1.5 g of 4-methoxymethyl-2-(3,4,4-trifluoro-3-butenylthio)oxazole as colorless oil (yield 52.5%). n20D=1.4710.

reactant | 4-hydroxymethyl-2-(3,4,4-trifluoro-3-butenylthio)oxazole | 2.7 g | OCC=1N=C(OC1)SCCC(=C(F)F)F | C8H8F3NO2S
reactant | NaH | 0.5 g | [H-].[Na+]
reactant | methyl iodide | 2.0 g | CI | CH3I
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-methoxymethyl-2-(3,4,4-trifluoro-3-butenylthio)oxazole | 1.5 g, yield 52.5% | COCC=1N=C(OC1)SCCC(=C(F)F)F | C9H10F3NO2S
